US08207373B2
Stage 1: tert-butyl N-(2-methyl-6-nitro-phenyl)-hydrazino-carboxylate
To 250 mg of 2-fluoro-3-methyl-nitrobenzene in 5 mL of DMSO are added 1.065 g of commercial tert-butoxycarbonylhydrazine (5 equivalents). The whole is brought to 100° C. for 10 min under microwave heating. The medium is hydrolyzed and then extracted with ethyl acetate several times. The organic phases are collected, dried on magnesium sulfate, filtered and evaporated under reduced pressure leading to a residue which is purified by chromatography on silica gel (cyclohexane/ethyl acetate: 80/20). 342 mg of product corresponding to the expected product are obtained.

reactant | 2-fluoro-3-methyl-nitrobenzene | 250 mg | FC1=C(C=CC=C1C)[N+](=O)[O-] | C7H6FNO2
reactant | tert-butoxycarbonylhydrazine | 1.065 g, 5 equivalents | C(C)(C)(C)OC(=O)NN | C5H12N2O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | tert-butyl N-(2-methyl-6-nitro-phenyl)-hydrazino-carboxylate | 342 mg, Yield: 80% | CC1=C(C(=CC=C1)[N+](=O)[O-])N(N)C(=O)OC(C)(C)C | C12H17N3O4
